US08497281B2
cis-1-(1H-Benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-6-carbonitrile
The title compound is also obtained as follows: A flask charged with a stir bar, zinc cyanide (0.32 g), trifluoromethanesulfonic acid cis-1-(1-trifluoromethanesulfonyl-1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester (mixture of isomers regarding sulfonyl group attachment at N-1 or N-3 of the benzimidazole, 1.08 g), and N,N-dimethylformamide (5 mL) is sparged with argon for 10 min. Tetrakis(triphenylphosphine)palladium(0) (0.31 g) is then added and the resulting mixture is heated to 100° C. and stirred at this temperature for 2 h. After cooling to room temperature, 1-hydroxybenzotriazole hydrate (0.45 g) and water (1.5 mL) are added and stirring is continued at room temperature for 3 h. Ethyl acetate, little methanol, and saturated aqueous Na2CO3 solution are added and the mixture is filtered over Celite. The aqueous phase of the filtrate is separated and neutralized with 2 M aqueous citric acid and extracted with ethyl acetate. The organic phases are combined and washed with brine and dried (Na2SO4). The solvent is evaporated and the residue is chromatographed on silica gel (dichloromethane/methanol 96:4-90:10) to give the title compound as a solid. Yield: 0.42 g (68% of theory).

reactant | trifluoromethanesulfonic acid cis-1-(1-trifluoromethanesulfonyl-1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester | FC(S(=O)(=O)N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=C(C=CC2C1)OS(=O)(=O)C(F)(F)F)(F)F | C22H17F6N3O6S2
reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
catalyst | zinc cyanide | 0.32 g | [C-]#N.[Zn+2].[C-]#N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | cis-1-(1H-Benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-6-carbonitrile | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=C(C=CC2C1)C#N | C21H18N4O
